US07071175B1
MeLi (6.5 mL, 10.4 mmol, 1.6 M in diethyl ether) was added dropwise to a slurry of CuI (0.9 g, 4.73 mmol) in THF (28 mL) at −78° C. under argon. The reaction mixture was stirred for 30 min. A solution of 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethylene)-malonic acid diethyl ester (0.84 g, 2.3 mmol) in THF (7 mL) was added dropwise and the reaction was stirred for 180 min at −78° C. Saturated aqueous NH4OH was added dropwise and the mixture was extracted with EtOAc. The organic phase was washed with saturated aqueous NH4OH and NaCl, dried and concentrated under reduced pressure. Flash chromatography (toluene/EtOAc, 3:1→1:6) gave 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-malonic acid diethyl ester (0.723 g, 82.4%) as a white solid.

reactant | MeLi | 10.4 mmol, 1.6 M, 6.5 mL | [Li]C
reactant | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethylene)-malonic acid diethyl ester | 2.3 mmol, 0.84 g | C(C)OC(C(C(=O)OCC)=CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H24N2O6
reactant | NH4OH | [NH4+].[OH-]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
catalyst | CuI | 4.73 mmol, 0.9 g | [Cu]I
product | 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-malonic acid diethyl ester | 0.723 g, 82.4% | C(C)OC(C(C(=O)OCC)C(C)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C19H28N2O6
